* Copyright © Linear Technology Corp. 2009.  All rights reserved.
*
.subckt LT3008 1 2 3 4 5
Q1 N009 N007 1 0 PN temp=27
Q2 N007 N011 4 0 NA temp=27
Q3 N011 N006 N013 0 NP temp=27
C1 N011 N006 22p Rser=14.7Meg
Q4 N006 N006 N014 0 NP 10 temp=27
R1 N014 4 33.6K
R2 N013 4 28K
C2 2 N006 5p
R3 N012 N014 297.18K
A1 5 4 4 4 4 4 N002 4 SCHMITT Vt=.8 Vh=1m
G1 1 N006 N003 4 .4286µ
G2 1 N011 N003 4 .4286µ
R5 1 N007 1.68Meg
R6 N009 2 8
A2 N008 0 N011 N011 N011 N011 4 N011 VARISTOR
D1 0 N008 F
G3 0 N008 2 N009 1.25m
C4 2 4 10p
C5 1 4 10p
G5 N008 0 N003 4 table(0 3m 1 0)
C6 1 N006 280p Rser=1.876G Rpar=42G
M§Q6 2 3 N012 N012 NM temp=27
C7 3 4 1p
D3 1 3 300pA
G4 0 N008 1 0 table(1.6 1.22m 45 1.59m)
G6 0 N015 1 N009 table(.1 6.73u .5 100u)
A3 N015 0 N011 N011 N011 N011 4 N011 VARISTOR
C9 N015 0 1p Rpar=100K
D4 5 4 SI
C8 5 4 1p
A4 4 N002 4 N004 4 4 N003 4 AND Tau=1m
A5 1 4 4 4 4 4 N004 4 SCHMITT Vt=1.8 Vh=1m
D2 4 2 SB
.model F D(Ron=1m Roff=1K)
.model NM VDMOS(Kp=10m Vto=0)
.model NP NPN(Cje=2p Cjc=2p BF=150)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=30)
.model 300pA D(Ron=1G Ilimit=.3n epsilon=.2)
.model PN PNP(BF=45.5 Cje=50p Cjc=50p Is=1e-14)
.model SI D(Ron=10Meg Ilimit=.65u epsilon=10)
.model SB D(Ron=10 Roff=1T epsilon=1.2)
.ends LT3008
*
.subckt LT3009-1.2 1 2 3 4 5
Q1 N007 N005 1 0 PN temp=27
Q2 N005 N009 4 0 NA temp=27
Q3 N009 N004 N011 0 NP temp=27
C1 N009 N004 22p Rser=14.7Meg
Q4 N004 N004 N012 0 NP 10 temp=27
R1 N012 4 33.6K
R2 N011 4 28K
C2 2 N004 5p
R3 N010 N012 647.1K
A1 5 4 4 4 4 4 N002 4 SCHMITT Vt=.8 Vh=1m trise=1m
G1 1 N004 N002 4 .4286µ
G2 1 N009 N002 4 .4286µ
R5 1 N005 1.68Meg
R6 N007 2 8
A2 N006 0 N009 N009 N009 N009 4 N009 VARISTOR
D1 0 N006 F
G3 0 N006 2 N007 1.25m
C4 2 4 10p
C5 1 4 10p
G5 N006 0 N002 4 table(0 3m 1 0)
C6 1 N004 280p Rser=1.876G Rpar=42G
M§Q6 2 2 N010 N010 NM temp=27
D3 2 4 300pA
G4 0 N006 1 0 table(1.6 1.22m 20 1.45m)
C8 5 4 1p Rpar=40Meg
G6 0 N013 1 N007 table(.1 6.56u .5 100u)
A3 N013 0 N009 N009 N009 N009 4 N009 VARISTOR
C9 N013 0 1p Rpar=100K
D2 4 2 SB
.model F D(Ron=1m Roff=1K)
.model NM VDMOS(Kp=10m Vto=0)
.model NP NPN(Cje=2p Cjc=2p BF=150)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=30)
.model 300pA D(Ron=1G Ilimit=.3n epsilon=.2)
.model PN PNP(BF=45.5 Cje=50p Cjc=50p Is=3e-12)
.model SB D(Ron=10 Roff=1T epsilon=1.2)
.ends LT3009-1.2
*
.subckt LT3009-1.5 1 2 3 4 5
Q1 N007 N005 1 0 PN temp=27
Q2 N005 N009 4 0 NA temp=27
Q3 N009 N004 N011 0 NP temp=27
C1 N009 N004 22p Rser=14.7Meg
Q4 N004 N004 N012 0 NP 10 temp=27
R1 N012 4 33.6K
R2 N011 4 28K
C2 2 N004 5p
R3 N010 N012 822K
A1 5 4 4 4 4 4 N002 4 SCHMITT Vt=.8 Vh=1m trise=1m
G1 1 N004 N002 4 .4286µ
G2 1 N009 N002 4 .4286µ
R5 1 N005 1.68Meg
R6 N007 2 8
A2 N006 0 N009 N009 N009 N009 4 N009 VARISTOR
D1 0 N006 F
G3 0 N006 2 N007 1.25m
C4 2 4 10p
C5 1 4 10p
G5 N006 0 N002 4 table(0 3m 1 0)
C6 1 N004 280p Rser=1.876G Rpar=42G
M§Q6 2 2 N010 N010 NM temp=27
D3 2 4 300pA
G4 0 N006 1 0 table(1.6 1.22m 20 1.45m)
C8 5 4 1p Rpar=40Meg
G6 0 N013 1 N007 table(.1 6.56u .5 100u)
A3 N013 0 N009 N009 N009 N009 4 N009 VARISTOR
C9 N013 0 1p Rpar=100K
D2 4 2 SB
.model F D(Ron=1m Roff=1K)
.model NM VDMOS(Kp=10m Vto=0)
.model NP NPN(Cje=2p Cjc=2p BF=150)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=30)
.model 300pA D(Ron=1G Ilimit=.3n epsilon=.2)
.model PN PNP(BF=45.5 Cje=50p Cjc=50p Is=3e-12)
.model SB D(Ron=10 Roff=1T epsilon=1.2)
.ends LT3009-1.5
*
.subckt LT3009-1.8 1 2 3 4 5
Q1 N007 N005 1 0 PN temp=27
Q2 N005 N009 4 0 NA temp=27
Q3 N009 N004 N011 0 NP temp=27
C1 N009 N004 22p Rser=14.7Meg
Q4 N004 N004 N012 0 NP 10 temp=27
R1 N012 4 33.6K
R2 N011 4 28K
C2 2 N004 5p
R3 N010 N012 997K
A1 5 4 4 4 4 4 N002 4 SCHMITT Vt=.8 Vh=1m trise=1m
G1 1 N004 N002 4 .4286µ
G2 1 N009 N002 4 .4286µ
R5 1 N005 1.68Meg
R6 N007 2 8
A2 N006 0 N009 N009 N009 N009 4 N009 VARISTOR
D1 0 N006 F
G3 0 N006 2 N007 1.25m
C4 2 4 10p
C5 1 4 10p
G5 N006 0 N002 4 table(0 3m 1 0)
C6 1 N004 280p Rser=1.876G Rpar=42G
M§Q6 2 2 N010 N010 NM temp=27
D3 2 4 300pA
G4 0 N006 1 0 table(1.6 1.22m 20 1.45m)
C8 5 4 1p Rpar=40Meg
G6 0 N013 1 N007 table(.1 6.56u .5 100u)
A3 N013 0 N009 N009 N009 N009 4 N009 VARISTOR
C9 N013 0 1p Rpar=100K
D2 4 2 SB
.model F D(Ron=1m Roff=1K)
.model NM VDMOS(Kp=10m Vto=0)
.model NP NPN(Cje=2p Cjc=2p BF=150)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=30)
.model 300pA D(Ron=1G Ilimit=.3n epsilon=.2)
.model PN PNP(BF=45.5 Cje=50p Cjc=50p Is=3e-12)
.model SB D(Ron=10 Roff=1T epsilon=1.2)
.ends LT3009-1.8
*
.subckt LT3009-2.5 1 2 3 4 5
Q1 N007 N005 1 0 PN temp=27
Q2 N005 N009 4 0 NA temp=27
Q3 N009 N004 N011 0 NP temp=27
C1 N009 N004 22p Rser=14.7Meg
Q4 N004 N004 N012 0 NP 10 temp=27
R1 N012 4 33.6K
R2 N011 4 28K
C2 2 N004 5p
R3 N010 N012 1405K
A1 5 4 4 4 4 4 N002 4 SCHMITT Vt=.8 Vh=1m trise=1m
G1 1 N004 N002 4 .4286µ
G2 1 N009 N002 4 .4286µ
R5 1 N005 1.68Meg
R6 N007 2 8
A2 N006 0 N009 N009 N009 N009 4 N009 VARISTOR
D1 0 N006 F
G3 0 N006 2 N007 1.25m
C4 2 4 10p
C5 1 4 10p
G5 N006 0 N002 4 table(0 3m 1 0)
C6 1 N004 280p Rser=1.876G Rpar=42G
M§Q6 2 2 N010 N010 NM temp=27
D3 2 4 300pA
G4 0 N006 1 0 table(1.6 1.22m 20 1.45m)
C8 5 4 1p Rpar=40Meg
G6 0 N013 1 N007 table(.1 6.56u .5 100u)
A3 N013 0 N009 N009 N009 N009 4 N009 VARISTOR
C9 N013 0 1p Rpar=100K
D2 4 2 SB
.model F D(Ron=1m Roff=1K)
.model NM VDMOS(Kp=10m Vto=0)
.model NP NPN(Cje=2p Cjc=2p BF=150)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=30)
.model 300pA D(Ron=1G Ilimit=.3n epsilon=.2)
.model PN PNP(BF=45.5 Cje=50p Cjc=50p Is=3e-12)
.model SB D(Ron=10 Roff=1T epsilon=1.2)
.ends LT3009-2.5
*
.subckt LT3009-3.3 1 2 3 4 5
Q1 N007 N005 1 0 PN temp=27
Q2 N005 N009 4 0 NA temp=27
Q3 N009 N004 N011 0 NP temp=27
C1 N009 N004 22p Rser=14.7Meg
Q4 N004 N004 N012 0 NP 10 temp=27
R1 N012 4 33.6K
R2 N011 4 28K
C2 2 N004 5p
R3 N010 N012 1872K
A1 5 4 4 4 4 4 N002 4 SCHMITT Vt=.8 Vh=1m trise=1m
G1 1 N004 N002 4 .4286µ
G2 1 N009 N002 4 .4286µ
R5 1 N005 1.68Meg
R6 N007 2 8
A2 N006 0 N009 N009 N009 N009 4 N009 VARISTOR
D1 0 N006 F
G3 0 N006 2 N007 1.25m
C4 2 4 10p
C5 1 4 10p
G5 N006 0 N002 4 table(0 3m 1 0)
C6 1 N004 280p Rser=1.876G Rpar=42G
M§Q6 2 2 N010 N010 NM temp=27
D3 2 4 300pA
G4 0 N006 1 0 table(1.6 1.22m 20 1.45m)
C8 5 4 1p Rpar=40Meg
G6 0 N013 1 N007 table(.1 6.56u .5 100u)
A3 N013 0 N009 N009 N009 N009 4 N009 VARISTOR
C9 N013 0 1p Rpar=100K
D2 4 2 SB
.model F D(Ron=1m Roff=1K)
.model NM VDMOS(Kp=10m Vto=0)
.model NP NPN(Cje=2p Cjc=2p BF=150)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=30)
.model 300pA D(Ron=1G Ilimit=.3n epsilon=.2)
.model PN PNP(BF=45.5 Cje=50p Cjc=50p Is=3e-12)
.model SB D(Ron=10 Roff=1T epsilon=1.2)
.ends LT3009-3.3
*
.subckt LT3009-5 1 2 3 4 5
Q1 N007 N005 1 0 PN temp=27
Q2 N005 N009 4 0 NA temp=27
Q3 N009 N004 N011 0 NP temp=27
C1 N009 N004 22p Rser=14.7Meg
Q4 N004 N004 N012 0 NP 10 temp=27
R1 N012 4 33.6K
R2 N011 4 28K
C2 2 N004 5p
R3 N010 N012 2864K
A1 5 4 4 4 4 4 N002 4 SCHMITT Vt=.8 Vh=1m trise=1m
G1 1 N004 N002 4 .4286µ
G2 1 N009 N002 4 .4286µ
R5 1 N005 1.68Meg
R6 N007 2 8
A2 N006 0 N009 N009 N009 N009 4 N009 VARISTOR
D1 0 N006 F
G3 0 N006 2 N007 1.25m
C4 2 4 10p
C5 1 4 10p
G5 N006 0 N002 4 table(0 3m 1 0)
C6 1 N004 280p Rser=1.876G Rpar=42G
M§Q6 2 2 N010 N010 NM temp=27
D3 2 4 300pA
G4 0 N006 1 0 table(1.6 1.22m 20 1.45m)
C8 5 4 1p Rpar=40Meg
G6 0 N013 1 N007 table(.1 6.56u .5 100u)
A3 N013 0 N009 N009 N009 N009 4 N009 VARISTOR
C9 N013 0 1p Rpar=100K
D2 4 2 SB
.model F D(Ron=1m Roff=1K)
.model NM VDMOS(Kp=10m Vto=0)
.model NP NPN(Cje=2p Cjc=2p BF=150)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=30)
.model 300pA D(Ron=1G Ilimit=.3n epsilon=.2)
.model PN PNP(BF=45.5 Cje=50p Cjc=50p Is=3e-12)
.model SB D(Ron=10 Roff=1T epsilon=1.2)
.ends LT3009-5
*
.subckt LT3009 1 2 3 4 5
Q1 N007 N005 1 0 PN temp=27
Q2 N005 N009 4 0 NA temp=27
Q3 N009 N004 N011 0 NP temp=27
C1 N009 N004 22p Rser=14.7Meg
Q4 N004 N004 N012 0 NP 10 temp=27
R1 N012 4 33.6K
R2 N011 4 28K
C2 2 N004 5p
R3 N010 N012 297.18K
A1 5 4 4 4 4 4 N002 4 SCHMITT Vt=.8 Vh=1m trise=1m
G1 1 N004 N002 4 .4286µ
G2 1 N009 N002 4 .4286µ
R5 1 N005 1.68Meg
R6 N007 2 8
A2 N006 0 N009 N009 N009 N009 4 N009 VARISTOR
D1 0 N006 F
G3 0 N006 2 N007 1.25m
C4 2 4 10p
C5 1 4 10p
G5 N006 0 N002 4 table(0 3m 1 0)
C6 1 N004 280p Rser=1.876G Rpar=42G
M§Q6 2 3 N010 N010 NM temp=27
C7 3 4 1p
D3 1 3 300pA
G4 0 N006 1 0 table(1.6 1.22m 20 1.45m)
C8 5 4 1p Rpar=40Meg
G6 0 N013 1 N007 table(.1 6.56u .5 100u)
A3 N013 0 N009 N009 N009 N009 4 N009 VARISTOR
C9 N013 0 1p Rpar=100K
D2 4 2 SB
.model F D(Ron=1m Roff=1K)
.model NM VDMOS(Kp=10m Vto=0)
.model NP NPN(Cje=2p Cjc=2p BF=150)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=30)
.model 300pA D(Ron=1G Ilimit=.3n epsilon=.2)
.model PN PNP(BF=45.5 Cje=50p Cjc=50p Is=3e-12)
.model SB D(Ron=10 Roff=1T epsilon=1.2)
.ends LT3009
